.SUBCKT LC555 1 2 3 4 5 6 7 8

* 555 timer circuit
R10 Net-_Q19A1-Pad1_ Net-_Q18-Pad1_ 7k
R1 8 Net-_Q5-Pad3_ 4.7k
R2 8 Net-_Q6-Pad3_ 830
R3 8 Net-_Q8-Pad3_ 4.7k
R4 8 Net-_Q9-Pad3_ 1k
Q5 Net-_Q1-Pad3_ Net-_Q1-Pad3_ Net-_Q5-Pad3_ BC327
Q6 Net-_Q15-Pad1_ Net-_Q1-Pad3_ Net-_Q6-Pad3_ BC327
Q7 1 Net-_Q3-Pad1_ Net-_Q6-Pad3_ BC327
Q8 Net-_Q3-Pad1_ Net-_Q3-Pad1_ Net-_Q8-Pad3_ BC327
Q9 Net-_Q11-Pad3_ Net-_Q19A1-Pad1_ Net-_Q9-Pad3_ BC327
Q1 Net-_Q1-Pad1_ 6 Net-_Q1-Pad3_ BC337
Q2 Net-_Q1-Pad3_ Net-_Q1-Pad1_ Net-_Q2-Pad3_ BC337
Q3 Net-_Q3-Pad1_ Net-_Q3-Pad2_ Net-_Q2-Pad3_ BC337
Q4 Net-_Q3-Pad1_ 5 Net-_Q3-Pad2_ BC337
R5 Net-_Q2-Pad3_ 1 10k
Q11 Net-_Q10-Pad1_ Net-_Q10-Pad3_ Net-_Q11-Pad3_ BC327
Q12 1 Net-_Q12-Pad2_ Net-_Q11-Pad3_ BC327
Q10 Net-_Q10-Pad1_ 2 Net-_Q10-Pad3_ BC327
Q13 1 Net-_Q13-Pad2_ Net-_Q12-Pad2_ BC327
R6 Net-_Q10-Pad1_ 1 100k
R9 Net-_Q13-Pad2_ 1 5k
R8 5 Net-_Q13-Pad2_ 5k
R7 8 5 5k
Q15 Net-_Q15-Pad1_ Net-_Q10-Pad1_ 1 BC337
Q16 Net-_Q16-Pad1_ Net-_Q15-Pad1_ 1 BC337
Q17 Net-_Q17-Pad1_ Net-_Q16-Pad1_ 1 BC337
DQ18 Net-_Q18-Pad1_ Net-_Q16-Pad1_ 1N4007
Q25 Net-_Q14-Pad2_ 4 Net-_Q18-Pad1_ BC327
Q14 7 Net-_Q14-Pad2_ 1 BC337
R11 Net-_Q15-Pad1_ Net-_Q17-Pad1_ 4.7k
R16 Net-_Q14-Pad2_ Net-_Q20-Pad3_ 100
Q20 Net-_Q20-Pad1_ Net-_Q17-Pad1_ Net-_Q20-Pad3_ BC337
Q24 3 Net-_Q24-Pad2_ 1 BC337
Q21 8 Net-_Q20-Pad1_ Net-_Q21-Pad3_ BC337
Q22 8 Net-_Q21-Pad3_ 3 BC337
R12 8 Net-_Q20-Pad1_ 6.8k
DQ23 3 Net-_Q20-Pad1_ 1N4007
R14 Net-_Q20-Pad3_ Net-_Q24-Pad2_ 220
R15 Net-_Q20-Pad3_ 1 4.7k
R13 Net-_Q21-Pad3_ 3 3.9k
Q19A1 Net-_Q19A1-Pad1_ Net-_Q19A1-Pad1_ 8 BC327
Q19B1 Net-_Q17-Pad1_ Net-_Q19A1-Pad1_ 8 BC327

* define transistor and diode models
*SRC=BC327;BC327;BJTs PNP;Amplifier;45V 500mA
.MODEL BC327 PNP (IS=5.224E-17 NF=1 BF=208 VAF=120 IKF=.48
+ ISE=989F NE=2 BR=4 NR=1 VAR=20 IKR=.72 RE=.214 RB=.857
+ RC=85.7M XTB=1.5 CJE=71.0P CJC=28.8P TF=794P TR=127N)
*   Siemens 45 Volt  .8 Amp  200 MHz  SiPNP  Transistor  04-12-1991
*SRC=BC337;BC337;BJTs NPN;Gen. Purpose;45V 500mA
.MODEL BC337 NPN (IS=83.3F NF=1 BF=103 VAF=145 IKF=1
+ ISE=28.8P NE=2 BR=4 NR=1 VAR=28 IKR=1.5 RE=.763 RB=3.05
+ RC=.305 XTB=1.5 CJE=31.2P CJC=67.7P TF=1.13N TR=212N)
*   National 65 Volt  .5 Amp  140 MHz  SiNPN  Transistor  01-26-1991
*PINOUT TO-92 3 2 1
*SRC=1N4007;Diode;Gen. Purpose
.MODEL 1N4007 D
+ IS=7.02767e-09 RS=0.0341512 N=1.80803 EG=1.05743 XTI=5 BV=1000 
+ IBV=5e-08 CJO=1e-11 VJ=0.7 M=0.5FC=0.5 TT=1e-07 KF=0 AF=1

.ENDS LC555
